US04743290
4-Propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester
Thionyl chloride (2.3 mL) was added dropwise to 110 mL methanol cooled to -10° C. Next 10.4 g 4-propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid was added in one portion. The solution was warmed to reflux for 6 hours, then cooled to -45° C., and the product precipitated in sufficiently pure form for the purposes of this invention; yield 8.45 g; m.p. 93°-98° C.

reactant | Thionyl chloride | 2.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid | 10.4 g | C(CC)SC=1C(=C(SC1)C(=O)O)S(=O)(=O)NC(C)(C)C | C12H19NO4S3
reactant | methanol | 110 mL | CO | CH4O
product | 4-Propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester | C(CC)SC=1C(=C(SC1)C(=O)OC)S(=O)(=O)NC(C)(C)C | C13H21NO4S3
